US07504412B2
N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxamide hydrochloride
Operations similar to those of Example 1 were conducted using 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine and 4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxylic acid. The resulting solid was dissolved in ethyl acetate, followed by addition of 4N hydrochloric acid-ethyl acetate solution and concentration under reduced pressure. The title compound was obtained as white solid.

reactant | 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine | C1(CC1)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1C | C11H11N3O2
reactant | 4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxylic acid | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)(F)F | C14H9F3O2
reactant | hydrochloric acid ethyl acetate | 4N | Cl.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxamide hydrochloride | Cl.C1(CC1)C=1N=C2N(C=C(C=C2)NC(=O)C2=CC=C(C=C2)C2=CC=C(C=C2)C(F)(F)F)C1C | InChI=1S/C25H20F3N3O.ClH/c1-15-23(18-4-5-18)30-22-13-12-21(14-31(15)22)29-24(32)19-6-2-16(3-7-19)17-8-10-20(11-9-17)25(26,27)28;/h2-3,6-14,18H,4-5H2,1H3,(H,29,32);1H
